US07626042B2
(1) 5-Bromo-N-[2-chloro-4-(trifluoromethyl)phenyl]-2-hydroxybenzamide
Using 5-bromosalicylic acid and 2-chloro-4-(trifluoromethyl)aniline as the raw materials, the same operation as the Example 1(1) gave the title compound.

reactant | 5-bromosalicylic acid | BrC1=CC=C(C(C(=O)O)=C1)O | C7H5BrO3
reactant | 2-chloro-4-(trifluoromethyl)aniline | ClC1=C(N)C=CC(=C1)C(F)(F)F | C7H5ClF3N
product | 5-Bromo-N-[2-chloro-4-(trifluoromethyl)phenyl]-2-hydroxybenzamide | Yield: 34.9% | BrC=1C=CC(=C(C(=O)NC2=C(C=C(C=C2)C(F)(F)F)Cl)C1)O | C14H8BrClF3NO2
